US04022833
In a manner similar to that of Example 1, condensation of 1-dodecene oxide (100 g.) and 1,3-propanediamine (20.1 g.) and three recrystallizations of the resulting product from isopropyl alcohol gave N,N'-(1,3-propylene)-bis[2-hydroxydodecylamine](I: R= CH3 (CH2)9, R' = H, X= (CH2)3, Z= H) (11.9 g., 96.0°-106.0° C.).

reactant | 1-dodecene oxide | 100 g | C1C(CCCCCCCCCC)O1 | C12H24O
reactant | 1,3-propanediamine | 20.1 g | C(CCN)N | C3H10N2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N,N'-(1,3-propylene)-bis[2-hydroxydodecylamine] | C(CCNCC(CCCCCCCCCC)O)NCC(CCCCCCCCCC)O | C27H58N2O2
